US04209439
Preparation of dodecyl acetoacetate
Introduced into a reactor equipped with a stirrer mechanism, a Vigreux column with a column head and a reflux condenser are 464 g (4 moles) of methyl acetoacetate and 186 g of dodecyl alcohol. The temperature of the reaction medium is progressively raised to 165° C. and the methanol having formed is distilled until the reaction is terminated, that is to say, for about 8 hours. The methyl acetoacetate excess is eliminated under a reduced pressure of 8 mm Hg and the crude dodecyl acetoacetate is recovered, and this will be used as such for the preparation of the corresponding dihydropyridine derivative (Example 3).

reactant | methyl acetoacetate | 4 moles, 464 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | dodecyl alcohol | 186 g | C(CCCCCCCCCCC)O | C12H26O
solvent | methanol | CO | CH4O
product | dodecyl acetoacetate | C(CC(=O)C)(=O)OCCCCCCCCCCCC | C16H30O3
